US07067517B2
4-(Cyclohexyl-methyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from cyclohexyl-methyl-piperidin-4-yl-amine, dihydrochloride and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, 2 equivalent of diisopropylamine; dimethylformamide/tetrahydrofuran (2:1). The reaction mixture was evaporated to dryness and the crude product extracted with ethyl acetate from an aqueous HCl solution saturated with sodium chloride, pH 1–2. The title product was crystallized from ethyl acetate during evaporation of the solvent, filtered and dryed in vacoum (45%, white crystals). HPLC-MS m/z=478.2 (M+1), Rt: 3.10 min.

reactant | cyclohexyl-methyl-piperidin-4-yl-amine, dihydrochloride | Cl.Cl.C1(CCCCC1)N(C1CCNCC1)C
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | diisopropylamine | 2 equivalent | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide tetrahydrofuran | CN(C=O)C.O1CCCC1
product | 4-(Cyclohexyl-methyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N(C)C1CCCCC1)(F)F | C25H30F3N3O3
